US07964607B2
(a) 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-isopropylhydrazine provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.50 (s, 1H), 4.22-4.16 (m, 3H), 1.45 (d, J=6.6 Hz, 6H). MS: (M+H m/z=151.1).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-isopropylhydrazine | C(C)(C)NN | C3H10N2
product | 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C(C)C)C#N | C7H10N4
